US06992087B2
methyl N-{2-[(tert-butoxycarbonyl)amino]butanoyl}alaninate
Following the procedure for the preparation of methyl {[N-(tert-butoxycarbonyl)-L-alanyl]amino}(cyclopropyl)acetate but substituting N-Boc-alpha-aminobutyric acid and methyl 2-aminobutanoate hydrochloride and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.82-0.91, 1.24-1.38, 1.52, 1.68-2.05, 3.75, 4.20, 4.52-4.59, 5.05, 6.69.

reactant | methyl {[N-(tert-butoxycarbonyl)-L-alanyl]amino}(cyclopropyl)acetate | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NC(C(=O)OC)C1CC1 | C14H24N2O5
reactant | N-Boc-alpha-aminobutyric acid | C(=O)(OC(C)(C)C)NC(C(=O)O)CC | C9H17NO4
reactant | methyl 2-aminobutanoate hydrochloride | Cl.NC(C(=O)OC)CC
product | methyl N-{2-[(tert-butoxycarbonyl)amino]butanoyl}alaninate | C(C)(C)(C)OC(=O)NC(C(=O)N[C@@H](C)C(=O)OC)CC | C13H24N2O5
